US06943180B2
To a solution of anhydrous MeOH (65 mL) at 0° C. was added thionyl chloride (9.03 mL, 124 mmol) slowly over a 5 min period. 2-Methyl-(L)-proline (Bachem AG, Cat. No. F-3440, Bubendorf, Switzerland) (4.0 gm, 31 mmol) was added in one portion. The reaction was stirred at 0° C. for 5 min and then warmed to rt. The reaction was then heated to 70° C. overnight. The reaction was cooled and the solvent removed to yield 2-methyl-(L)-proline, methyl ester hydrochloride as a white solid (5.72 gm).

reactant | thionyl chloride | 124 mmol, 9.03 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-Methyl-(L)-proline | C[C@@]1(NCCC1)C(=O)O | C6H11NO2
reactant | MeOH | 65 mL | CO | CH4O
product | 2-methyl-(L)-proline, methyl ester hydrochloride | 5.72 gm | Cl.C[C@@]1(NCCC1)C(=O)OC | InChI=1S/C7H13NO2.ClH/c1-7(6(9)10-2)4-3-5-8-7;/h8H,3-5H2,1-2H3;1H/t7-;/m0./s1
